US05037825
7.3 g of 8-bromo-2,3,4,5-tetrahydro-1-benzoxepine in 30 ml of absolute tetrahydrofuran were added under argon to 930 mg of Mg shavings and a granule of iodine. The reaction was initiated by the addition of a few drops of 1,2-dibromoethane and had finished after 2 hours. Thereafter, the reaction mixture was cooled to -10° C. and excess acetaldehyde was distilled into the reaction vessel. After 10 minutes, the mixture was hydrolyzed with saturated sodium bicarbonate (NaHCO3) solution, extracted with ether, washed with water, dried and evaporated to dryness. Chromatography on silica gel (petroleum ether/ethyl acetate 3:1) yielded 4.93 g of 2,3,4,5-tetrahydro-α-methyl-1-benzoxepine-8-methanol as a colorless oil.

reactant | 8-bromo-2,3,4,5-tetrahydro-1-benzoxepine | 7.3 g | BrC1=CC2=C(CCCCO2)C=C1 | C10H11BrO
reactant | iodine | II | I2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
product | 2,3,4,5-tetrahydro-α-methyl-1-benzoxepine-8-methanol | 4.93 g | CC(O)C1=CC2=C(CCCCO2)C=C1 | C12H16O2
